US04788206
As before, (E)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid ethyl ester (1.7 g) in methanol (15 mL) was carried out using 4N sodium hydroxide (2.5 mL). After acidification, the product was extracted into dichloromethane (2×50 mL). The combined extracts were dried and evaporated and the residue crystallized from ether-hexane to provide 1.45 g of (E)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid, mp 159°-160° C.

reactant | (E)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid ethyl ester | 1.7 g | C(C)OC(\C=C\C=C(C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C19H16F2O2
reactant | sodium hydroxide | 4N, 2.5 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | (E)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid | 1.45 g | FC1=C(C=CC=C1)C(=C/C=C/C(=O)O)C1=C(C=CC=C1)F | C17H12F2O2
